US05891889
Step C: 4-Carbethoxy-1-phenylpiperidine
A mixture of ethyl isonipecotate (2.00 mL, 12.97 mmol), triphenylbismuth (8.56 g, 19.46 mmol), copper(II)acetate (3.52 g, 19.46 mmol) and triethylamine (2.70 mL, 19.46 mmol) was stirred for 17 h at 20° C. in dichloromethane (60 mL). The reaction mixture was adsorbed onto silica gel and eluted with 5% ethyl acetate/hexane. The title compound was obtained as an oil.

reactant | ethyl isonipecotate | 12.97 mmol, 2.00 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triphenylbismuth | 19.46 mmol, 8.56 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 19.46 mmol, 2.70 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | copper(II)acetate | 19.46 mmol, 3.52 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-Carbethoxy-1-phenylpiperidine | C(=O)(OCC)C1CCN(CC1)C1=CC=CC=C1 | C14H19NO2
